* C:\Users\giuly\Desktop\università\ANNO 5\S1\LabElettronica\Relazioni-Lab-Elettronica\Relazione 4\simulazione\Draft2.asc
XU1 0 N004 Vout N002 N003 N001 N001 N002 NE555
Vin N004 0 PULSE(0 10 0 0 0 2.6667m 3.3333m 10000)
C2 N003 0 1n
R1 N001 N002 12k
Vdd N002 0 10
C1 N001 0 150n
.tran 0 15m 0 1u uic
.lib NE555.sub
.backanno
.end
